US08877742B2
6-bromo-5-fluoro-1,2,2-trimethylindolin-3-one
To a stirred solution of 6-bromo-5-fluoro-2,2-dimethylindolin-3-one (D90) (240 mg, 0.930 mmol) in DMF (3 mL) at 0° C. was added sodium hydride (55.8 mg, 1.395 mmol). After stirring for 10 min, iodomethane (0.116 mL, 1.860 mmol) was added to the mixture and the mixture was stirred for 30 min at 0° C. The reaction was quenched with addition of saturated NH4Cl (1 mL) and the mixture was poured into water (60 mL). The mixture was extracted with ethyl acetate (10 mL×3). The organic layers were combined, washed with brine (50 mL), dried over MgSO4, filtered and evaporated in vacuo. The crude residue was purified by chromatography on silica, eluting with a gradient of 0-30% ethyl acetate in cyclohexane to give the title compound (247.7 mg). LCMS (A): m/z (M+H)+ 272/274, C11H11BrFNO requires 271/273 (acidic).

reactant | 6-bromo-5-fluoro-2,2-dimethylindolin-3-one | 0.930 mmol, 240 mg | BrC1=C(C=C2C(C(NC2=C1)(C)C)=O)F | C10H9BrFNO
reactant | sodium hydride | 1.395 mmol, 55.8 mg | [H-].[Na+]
reactant | iodomethane | 1.860 mmol, 0.116 mL | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-bromo-5-fluoro-1,2,2-trimethylindolin-3-one | 247.7 mg | BrC1=C(C=C2C(C(N(C2=C1)C)(C)C)=O)F | C11H11BrFNO
